US07829580B2
(E)-4-(Acetylsulfanyl)-3-{[1-(carboxymethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine hydrochloride (Exemplification Compound No. 2-14)
To a solution of (E)-4-(acetylsulfanyl)-3-{[1-(t-butoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine (770 mg) in dichloromethane (10 ml) was added trifluoroacetic acid (10 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated in vacuo, and the residue was diluted with ethyl acetate and washed saturated aqueous sodium hydrogencarbonate solution. The organic layer was neutralized with 1N hydrochloric acid and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was dissolved in dichloromethane (10 ml) and a 4N solution of hydrogen chloride in dioxane (1.1 ml) was added to the resulting mixture. The reaction mixture was removed in vacuo, and the residue was purified by chromatography on a silica gel column using methanol and dichloromethane (1:40) as the eluent to afford the title compound (640 mg, yield: 80%) as a pale yellow amorphous solid.

reactant | (E)-4-(acetylsulfanyl)-3-{[1-(t-butoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine | 770 mg | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CC(=O)OC(C)(C)C | C28H34FN3O4S
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-4-(Acetylsulfanyl)-3-{[1-(carboxymethyl)-1H-pyrazol-3-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine hydrochloride | 640 mg, yield: 80% | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CC(=O)O | InChI=1S/C24H26FN3O4S.ClH/c1-15(29)33-21-9-10-27(13-17(21)12-18-8-11-28(26-18)14-22(30)31)23(24(32)16-6-7-16)19-4-2-3-5-20(19)25;/h2-5,8,11-12,16,21,23H,6-7,9-10,13-14H2,1H3,(H,30,31);1H/b17-12+;
